US06028074
(c) 5-Methyl-7-(2-methylpropyl)-2-(1-naphthalenylmethyl)-3-propylthio-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione
N-butyl lithium (1.5 M, 1.4 ml) was added to a solution of 5-methyl-7-(2-methylpropyl)-2-(1-naphthalenylmethyl)-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione (200 mg) and dipropyl disulfide (0.175 ml) in tetrahydrofuran (10 ml) cooled to -78° C. After 1 hour the reaction mixture was warmed to ambient temperature and after a further hour the reaction was quenched with water. The reaction mixture was diluted with ether and washed thrice with 2 M sodium hydroxide solution and once with brine. The organic phase was dried over magnesium sulfate, concentrated in vacuo and purified by chromatography on silica gel (isohexane:ethyl acetate 9:1-4:1), followed by recrystallisation from isohexane to give the title compound (24 mg).

reactant | 5-methyl-7-(2-methylpropyl)-2-(1-naphthalenylmethyl)-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione | 200 mg | CN1C(N(C=2C(C1=O)=CN(N2)CC2=CC=CC1=CC=CC=C21)CC(C)C)=O | C21H22N4O2
reactant | dipropyl disulfide | 0.175 ml | C(CC)SSCCC | C6H14S2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 5-Methyl-7-(2-methylpropyl)-2-(1-naphthalenylmethyl)-3-propylthio-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione | 24 mg | CN1C(N(C=2C(C1=O)=C(N(N2)CC2=CC=CC1=CC=CC=C21)SCCC)CC(C)C)=O | C24H28N4O2S
